US06165981
To about seven hundred milliliters of purified water is added about three grams of EDTA, about 15 grams of sodium chloride, about 7 grams of sodium phosphate, monobasic, about 50 grams of trehalose, about 3.3 milliliters of a stock solution of chloramphenicol to provide a final concentration of 165 mg/mL, about 0.75 milliliters of a stock solution of clortrimazole to provide a final concentration of 3 ppms, about 10 milliliters of a 1% aqueous solution of gelatin, and about 30 grams of bovine serum albumin. The pH is adjusted to 5.5 and the total volume is adjusted to 1 liter with purified water. The final matrix is sterile filtered and lyophilized. A reconstitution diluent of one liter is prepared by combining in aqueous solution about 65 grams of albumin, 25 grams of sodium chloride and 0.4 grams of NAC, protease inhibitor and about 2 milliliters of a 25% solution of sodium azide.

reactant | EDTA | about three grams | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sodium chloride | about 15 grams | [Cl-].[Na+]
reactant | sodium phosphate | about 7 grams | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | trehalose | about 50 grams | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
reactant | chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
solvent | water | about seven hundred milliliters | O | H2O
product | clortrimazole | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3Cl)N4C=CN=C4 | C22H17ClN2
